US07067537B2
Production of N-{4-methyl-3-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]phenyl}acetamide
4-Methyl-3-[2-(2-methyl-5-nitrophenyl)-1,3-thiazol-4-yl]pyridine (100 mg) and reduced iron (180 mg) were suspended in acetic acid (2 ml)-acetic anhydride (0.04 ml) and the mixture was stirred at 70° C. for 4 hrs. The reaction mixture was diluted with ethyl acetate and the insoluble material was filtered off. The organic layer was neutralized with saturated aqueous sodium hydrogen carbonate. The organic layer was separated and concentrated by drying. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1–0:1) for purification. Recrystallization from ethyl acetate gave the title compound (43 mg) as colorless powder crystals.

reactant | 4-Methyl-3-[2-(2-methyl-5-nitrophenyl)-1,3-thiazol-4-yl]pyridine | 100 mg | CC1=C(C=NC=C1)C=1N=C(SC1)C1=C(C=CC(=C1)[N+](=O)[O-])C | C16H13N3O2S
reactant | acetic anhydride | 0.04 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-methyl-3-[4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]phenyl}acetamide | 43 mg | CC1=C(C=C(C=C1)NC(C)=O)C=1SC=C(N1)C=1C=NC=CC1C | C18H17N3OS
